US08957073B2
A mixture of 1-(4-{3-[1-(1H-benzoimidazole-2-carbonyl)-azetidin-3-yl]-pyrazin-2-yl}-3,6-dihydro-2H-pyridin-1-yl)-ethanone (170 mg, 0.42 mmol) and wet Pd—C (50%, 50 mg) in MeOH (30 mL) was stirred under H2 (30 psi) at RT for 2 h then the reaction mixture was filtered through CELITE® and washed with MeOH. The filtrate was concentrated in vacuo and the residue was purified by ISCO silica gel column (10% to 50% EtOAc in petroleum ether) to give 1-(4-{3-[1-(1H-benzoimidazole-2-carbonyl)-azetidin-3-yl]-pyrazin-2-yl}-piperidin-1-yl)-ethanone (101 mg, 0.25 mmol, 60% yield).

reactant | 1-(4-{3-[1-(1H-benzoimidazole-2-carbonyl)-azetidin-3-yl]-pyrazin-2-yl}-3,6-dihydro-2H-pyridin-1-yl)-ethanone | 0.42 mmol, 170 mg | N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C=2C(=NC=CN2)C=2CCN(CC2)C(C)=O | C22H22N6O2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd—C | 50 mg | [Pd] | Pd
product | 1-(4-{3-[1-(1H-benzoimidazole-2-carbonyl)-azetidin-3-yl]-pyrazin-2-yl}-piperidin-1-yl)-ethanone | 0.25 mmol, 101 mg, 60% yield | N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C=2C(=NC=CN2)C2CCN(CC2)C(C)=O | C22H24N6O2
